US06826033B2
A mixture of (2S)-2-(benzylamino)-3-(4-nitrophenyl)-1-propanol (1.15 g) and (2S)-2-(phenoxymethyl)oxirane (661 mg) in ethanol (9.2 ml) was heated to reflux for 3 hours. After allowed to cool to room temperature, the mixture was concentrated and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate) to give (2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl)amino]-3-(4-nitrophenyl)-1-propanol (1.17 g) as a pale yellow solid.

reactant | (2S)-2-(benzylamino)-3-(4-nitrophenyl)-1-propanol | 1.15 g | C(C1=CC=CC=C1)N[C@H](CO)CC1=CC=C(C=C1)[N+](=O)[O-] | C16H18N2O3
reactant | (2S)-2-(phenoxymethyl)oxirane | 661 mg | O(C1=CC=CC=C1)C[C@H]1OC1 | C9H10O2
solvent | ethanol | 9.2 ml | C(C)O | C2H6O
product | (2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl)amino]-3-(4-nitrophenyl)-1-propanol | 1.17 g | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=CC=C1)O)[C@H](CO)CC1=CC=C(C=C1)[N+](=O)[O-] | C25H28N2O5
